US07514566B2
To a stirred solution of 5-bromo-2-iodopyridin-3-ol (2.17 g, 7.2 mmol) in DMF (10.00 mL, 129 mmol) was added NaH (0.32 g, 8.0 mmol) at 0° C. The resulting mixture was stirred at 0° C. and MeI was added at 0° C. The resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with NH4Cl(aq) and water (10 mL each) at 0° C., and diluted with EtOAc (15 mL). The separated aqueous layer was extracted with EtOAc (2×15 mL) and the combined organic layers were washed with water and saturated sodium chloride, dried over Na2SO4, and concentrated to give the crude residue which was purified with flash column chromatography ((5%→50% EtOAc in hexane) to obtain 5-bromo-2-iodo-3-methoxypyridine as an off-white solid (1.77 g, 78% yield) m/z (%): 314.2 (100%, M++H).

reactant | 5-bromo-2-iodopyridin-3-ol | 7.2 mmol, 2.17 g | BrC=1C=C(C(=NC1)I)O | C5H3BrINO
reactant | DMF | 129 mmol, 10.00 mL | CN(C)C=O | C3H7NO
reactant | NaH | 8.0 mmol, 0.32 g | [H-].[Na+]
reactant | MeI | CI | CH3I
solvent | NH4Cl | [NH4+].[Cl-]
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 5-bromo-2-iodo-3-methoxypyridine | 1.77 g, 78% yield | BrC=1C=C(C(=NC1)I)OC | C6H5BrINO
